US04624949
6H-dibenzo[b,d]thiopyran-6-ol (2.6 g; 12 mmol) was dissolved in anhydrous benzene (50 ml). Trimethylsilylcyanide (4.5 ml; 36 mmol) and a catalytic amount of ZnI2 were added to the solution, then the reaction mixture was stirred for 20 hours at room temperature. The solution was washed with 1N NaOH, dried and evaporated. The residue was crystallized from diethyl ether to give 6-cyano-6H-dibenzo[b,d]thiopyran as white solid (2.3 g; 10 mmol); m.p. 114°-116° C. By proceeding analogously the following compounds were obtained:

reactant | 6H-dibenzo[b,d]thiopyran-6-ol | 12 mmol, 2.6 g | C1=CC=CC=2SC(C3=C(C21)C=CC=C3)O | C13H10OS
reactant | Trimethylsilylcyanide | 36 mmol, 4.5 ml | C[Si](C)(C)C#N | C4H9NSi
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
catalyst | ZnI2 | [Zn+2].[I-].[I-]
product | 6-cyano-6H-dibenzo[b,d]thiopyran | C(#N)C1C2=C(C3=C(S1)C=CC=C3)C=CC=C2 | C14H9NS
